US07098226B2
Diisopropylamine (1.98 g, 19.6 mmol) was added dropwise to a solution of a butyllithium/hexane solution (10.5 ml, 16.8 mmol) in anhydrous tetrahydrofuran (20 ml) at −80° C. over five minutes, the temperature was raised to 0° C., and the mixture was stirred for 30 minutes. The mixture was cooled to −80° C. again, then acetonitrile (573 mg, 14.0 mmol) was added dropwise to the mixture over seven minutes, and after 20 minutes, 4-pyridinecarboxyaldehyde (758 mg, 7.08 mmol) was added dropwise thereto over 10 minutes. After 50 minutes, a saturated aqueous ammonium chloride solution (20 ml) was added to the reaction mixture, and the temperature was raised to room temperature. The whole was continuously extracted (ethyl acetate and water) for four days. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give 3-hydroxy-3-(4-pyridyl)propionitrile (666 mg, colorless crystals, 63.5%).

reactant | Diisopropylamine | 19.6 mmol, 1.98 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium hexane | 16.8 mmol, 10.5 ml | C(CCC)[Li].CCCCCC
reactant | acetonitrile | 14.0 mmol, 573 mg | C(C)#N | C2H3N
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-3-(4-pyridyl)propionitrile | 666 mg, 63.5% | OC(CC#N)C1=CC=NC=C1 | C8H8N2O
